US07709509B2
4-Iodomethyl-2-(4-methoxyphenyl)-5-methyloxazole
Together with 37.7 g of sodium iodide, 19.9 g of 4-chloromethyl-2-(4-methoxy-phenyl)-5-methyl-oxazole are, in 300 ml of acetone, heated at the boil under reflux for 2 hours. After cooling of the reaction mixture, the solvent was removed under reduced pressure and the residue dissolved in 300 ml of methyl tert-butyl ether, the mixture is washed three times with saturated Na2S2O3 solution and dried over MgSO4, and the solvent is then removed under reduced pressure. This gives 49.8 g of 4-Iodomethyl-2-(4-methoxyphenyl)-5-methyloxazole as a light-brown solid.

reactant | sodium iodide | 37.7 g | [I-].[Na+]
reactant | 4-chloromethyl-2-(4-methoxy-phenyl)-5-methyl-oxazole | 19.9 g | ClCC=1N=C(OC1C)C1=CC=C(C=C1)OC | C12H12ClNO2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-Iodomethyl-2-(4-methoxyphenyl)-5-methyloxazole | ICC=1N=C(OC1C)C1=CC=C(C=C1)OC | C12H12INO2
